US05137653
0.67 g of the above 2-methylbutanoic acid-4-(2-methylbutanoyl) biphenyl was mixed with 95 ml of methyl alcohol and 5 ml of water and added with 1.14 g (13.6 mmol) of sodium hydrogen carbonate with stirring, which was subjected to hydrolysis reaction at room temperature for 40 hours. After the completion of the reaction, methanol was distilled off and 1 normal hydrochloric acid was added to adjust pH to not more than 1, and the extraction with dichloromethane was performed. The extracted liquid was washed with water, dried on anhydrous sodium sulfate and purified by a column chromatography of silica gel after the removal of the solvent to obtain 0.44 g (yield 88%) of (+)-4-hydroxy-4'-(2-methylbutanoyl) biphenyl at a light yellow crystal having the aforementioned properties.

reactant | 2-methylbutanoic acid 4-(2-methylbutanoyl) biphenyl | 0.67 g | CC(C(=O)O)CC.CC(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CC
reactant | water | 5 ml | O | H2O
reactant | sodium hydrogen carbonate | 13.6 mmol, 1.14 g | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | methyl alcohol | 95 ml | CO | CH4O
product | (+)-4-hydroxy-4'-(2-methylbutanoyl) biphenyl | 0.44 g, yield 88% | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(CC)C)=O | C17H18O2
